US07842685B2
To a mixture of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (1.00 g, 2.7 mmol) in tetrahydrofuran (20 ml) at 0° C. was added ethylmagnesium bromide soln in t-butylmethyl ether. (4.0 ml, 4.0 mmol) dropwise over 5 min. The reaction was allowed to stir 20 min at 0° C. The reaction was quenched with NH4Cl aq. sat soln. The solid was removed by filtration. The filtrate was concentrated and purified by silica gel chromatography: ISCO, 120 g column, 20-30% EtOAc/Hex, followed by 40% (3% EtN3 in EtOAc)/Hex to give 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-ol. MS (ESI) m/z: Calculated: 404.1; Observed: 405.1 (M++H).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 2.7 mmol, 1.00 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | t-butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-ol | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(CC)O | C24H21FN2OS
